US05026722
N,5-Dimethyl-1-(triphenylmethyl)-1H-imidazole-4-methanamine
A mixture of 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde (3.2 g) and methylamine hydrochloride (3.6 g) in methanol (60 ml) was stirred at room temperature for 1h. The mixture was then cooled to 0°, treated with sodium cyanoborohydride (0.62 g) for 2h and water (40 ml) was added. The resulting mixture was then stirred at 20° for 0.5h, cooled to 0° and treated with concentrated hydrochloric acid (10 ml). The mixture was then allowed to warm to 20°, and stirred at 20 for a further 1h and basified (to pH9) with potassium carbonate. The alkaline aqueous mixture was diluted with water (100 ml) and extracted with ethyl acetate (×200 ml). The combined organic extracts were dried and evaporated to leave a foam (3.5 g) which was purified by FCC eluting with System A (100:8:1) to give the title compound (1.8 g) as a solid, t.l.c. (System A, 100:3:1) Rf 0.1.

reactant | 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde | 3.2 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
reactant | methylamine hydrochloride | 3.6 g | Cl.CN
reactant | sodium cyanoborohydride | 0.62 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | N,5-Dimethyl-1-(triphenylmethyl)-1H-imidazole-4-methanamine | 3.5 g | CNCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25N3
